US06887874B2
A solution of boron tribromide (32.5 ml, 341 mmol) in methylene chloride (60 ml) was added in portions to a solution of 5-methoxy-2-methylindole (25 g, 155 mmol) in methylene chloride (250 ml) cooled at −45° C. After stirring for 15 minutes at −30° C., the mixture was warmed up to ambient temperature and stirred for 1 hour. Methylene chloride (300 ml) was added in portions and the mixture was cooled to 0° C. Water was added in portions and the mixture was adjusted to pH6 with 4N sodium hydroxide. The organic layer was separated. The aqueous layer was extracted with methylene chloride and the organic layers were combined, washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with ethyl acetate/methylene chloride (1/9 followed by 15/85) to give 5-hydroxy-2-methylindole (21.2 g, 93%).

reactant | boron tribromide | 341 mmol, 32.5 ml | B(Br)(Br)Br | BBr3
reactant | 5-methoxy-2-methylindole | 155 mmol, 25 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | Water | O | H2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-2-methylindole | 21.2 g, 93% | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
